### PR TITLE
feat(Wikipedia): Bloch and Landau constants

### LINKED ISSUE #3482: Bloch-Landau Constants: exact values and precise bounds
### What is the conjecture

 Let $f$ be a holomorphic (analytic) function defined on the open unit disk $\mathbb{D} = \{z \in \mathbb{C} : |z| < 1\}$ with $f(0) = 0$ and $f'(0) = 1$.

The **Bloch constant** $B$ is defined as the infimum over all such functions $f$ of the radius of the largest univalent (one-to-one) disk contained in the image $f(\mathbb{D})$:
$$B = \inf_{f} \sup\{r > 0 : \text{there exists a disk of radius } r \text{ in } f(\mathbb{D}) \text{ that is univalent}\}.$$

The **Landau constant** $L$ is defined for holomorphic functions with $f(0) = 1$ (instead of $f(0) = 0$) as the infimum of the radius of the largest disk in the image:
$$L = \inf_{f} \sup\{r > 0 : \text{there exists a disk of radius } r \text{ in } f(\mathbb{D})\}.$$

Both constants are open problems: their exact values are unknown. It is known that approximately $0.4332 \leq B \leq 0.4715$ and $0.5 < L \leq \Gamma(1/3)\Gamma(5/6)/\Gamma(1/6) \approx 0.5433$, where $\Gamma$ is the gamma function. A classical theorem states that $L \geq B$.

(This description may contain subtle errors especially on more complex problems; for exact details, refer to the sources.)

 **Sources:**
 - https://en.wikipedia.org/wiki/Landau%27s_constants, https://mathworld.wolfram.com/LandauConstant.html, https://planetmath.org/landausconstant, https://www.cambridge.org/core/journals/canadian-mathematical-bulletin/article/improved-bloch-and-landau-constants-for-meromorphic-functions/FD465D1F2CEF7E8C62AFF16C3E89B7B4, https://lmcs.episciences.org/1189/pdf

### Prerequisites needed

**Formalizability Rating:** 3/5 (0 is best) (as of 2026-03-08)

Building blocks (1-3; from search results):
- `Complex`: Mathlib's type for complex numbers
- `deriv`, `DifferentiableAt`: Mathlib definitions for derivatives and differentiability of holomorphic functions
- `Metric.Ball`, `iInf`, `sSup`: Mathlib's metric ball, infimum, and supremum operations

Missing pieces (exactly 2; unclear/absent from search results):
- Definition of univalent functions and formalization of the geometric property of "largest univalent disk in image"
- Infrastructure for relating the supremum of disk radii in an image set to geometric properties of holomorphic functions

Rating justification (1-2 sentences): The basic objects (complex numbers, holomorphic functions, metric spaces, infima/suprema) all exist in Mathlib, allowing the statement to be written. However, the concepts of univalence and the geometric characterization of Bloch/Landau constants require moderate additional definitions and connecting lemmas not currently in Mathlib.

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-30
* ams-32

### Choose either option

- [ ] I plan on adding this conjecture to the repository
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

---
This issue was generated by an AI agent and reviewed by me.

If you have feedback on mistakes / hallucinations, feel free to just write it in the issue. See more information here: [link](https://leanprover.zulipchat.com/#narrow/channel/524981-Formal-conjectures/topic/Custom.20Agent.20for.20Issue.20Generation/with/569221879)

### PR DESCRIPTION
**Pull request by CoolRmal**
Closes: #3482

### CODE REVIEW

File: FormalConjectures/Wikipedia/Bloch.lean [hunk 1]
```diff
@@ -0,0 +1,80 @@
...
+
+@[category research solved, AMS 30]
+theorem blochConstant_lower_bound : Real.sqrt 3 / 4 + 2 * 10 ^ (-4 : ℤ) ≤ blochConstant := by
+  sorry
+
+@[category research solved, AMS 30]
+theorem blochConstant_upper_bound :
+    blochConstant ≤ Real.Gamma (1 / 3) * Real.Gamma (11 / 12) /
+    (Real.Gamma (1 / 4) * Real.sqrt (1 + Real.sqrt 3)) := by
+  sorry
```
Comment (Paul-Lez) [inline FormalConjectures/Wikipedia/Bloch.lean:127]: For the research solved questions here, would you mind adding a docstring with an informal version of the problem, as well as the name of the reference where the proof is?

**Review by Paul-Lez — COMMENTED** [review]
Nice!

File: FormalConjectures/Wikipedia/Bloch.lean [hunk 2]
```diff
@@ -0,0 +1,80 @@
...
+import FormalConjectures.Util.ProblemImports
+
+open Metric Set
+
+/-!
+# Bloch and Landau constants
+
+*References:*
+- [MathWorld](https://mathworld.wolfram.com/BlochConstant.html)
+- [Bhowmik–Sen](https://www.cambridge.org/core/journals/canadian-mathematical-bulletin/article/improved-bloch-and-landau-constants-for-meromorphic-functions/FD465D1F2CEF7E8C62AFF16C3E89B7B4)
```
Comment (mo271) [inline FormalConjectures/Wikipedia/Bloch.lean:39]: can you also add a link to wikipedia, if this is in the Wikipedia subdir?

**Comment by franzhusch** [comment]
This is also part of the Optimization Constants by Terence Tao. Bloch's Constant: https://teorth.github.io/optimizationproblems/constants/57a.html and Landau's Constant: https://teorth.github.io/optimizationproblems/constants/57b.html 

There is also a univalent Bloch constant: https://teorth.github.io/optimizationproblems/constants/57c.html

**Comment by CoolRmal** [comment]
@franzhusch I included the univalent bloch constant.
@mo271 @Paul-Lez I think I addressed all your comments.

**Review by mo271 — APPROVED** [review]
Thanks, lgtm

File: FormalConjectures/Wikipedia/Bloch.lean [hunk 3]
```diff
@@ -0,0 +1,178 @@
...
+  65 (1995), 1–17.
+- [Ra43] Rademacher, H. "On the Bloch-Landau Constant."" American Journal of Mathematics 65 (1943),
+  387–390.
+- [OptimizationConstants](https://teorth.github.io/optimizationproblems/constants/57c.html)
+- [Skin2009] Skinner, Brian. The univalent Bloch constant problem. Complex Variables and Elliptic
+  Equations 54 (2009), no. 10, 951–955.
+- [MathWorld](https://mathworld.wolfram.com/BlochConstant.html)
+- [Bhowmik–Sen](https://www.cambridge.org/core/journals/canadian-mathematical-bulletin/article/improved-bloch-and-landau-constants-for-meromorphic-functions/FD465D1F2CEF7E8C62AFF16C3E89B7B4)
+-/
+
```
Comment (mo271) [inline FormalConjectures/Wikipedia/Bloch.lean:42]:
```suggestion
namespace Bloch

```

File: FormalConjectures/Wikipedia/Bloch.lean [hunk 4]
```diff
@@ -0,0 +1,178 @@
...
+theorem landauConstant_upper_bound :
+    landauConstant ≤ Real.Gamma (1 / 3) * Real.Gamma (5 / 6) / Real.Gamma (1 / 6) := by
+  sorry
+
+/-- In [Ra43], Rademacher says that he strongly believed that this upper bound is the precise value
+of the Landau constant. -/
+@[category research open, AMS 30]
+theorem landauConstant_exact_value :
+    landauConstant = Real.Gamma (1 / 3) * Real.Gamma (5 / 6) / Real.Gamma (1 / 6) := by
+  sorry
```
Comment (mo271) [inline FormalConjectures/Wikipedia/Bloch.lean:179]:
```suggestion
  sorry
  
end Bloch

```

**Review by mo271 — COMMENTED** [review]
needs namespace
